US04022897
To a stirred suspension of 1.6 g of powdered sodium hydroxide in 100 ml of pure ethyl methyl ketone is added 21. g of 7-chloro-9-hydroxy-2-methyl-4H-pyrido[1,2-a] pyrimidin-4-one. The mixture is stirred for about 1 hour and 1.5 g of isobutyl bromide dissolved in 10 ml of pure ethyl methyl ketone is added dropwise. Subsequently, 0.2 g of copper bronze is added and the mixture stirred and heated under reflux for 2 hours. The mixture is cooled, diluted with 20 ml of water, filtered, and the organic phase in the filtrate separated, washed with saturated aqueous sodium chloride, dried, and concentrated to give 7-chloro-9-(isobutoxy)-2-methyl-4H-pyrido[ 1,2-a] pyrimidin-4-one.

reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
reactant | 7-chloro-9-hydroxy-2-methyl-4H-pyrido[1,2-a] pyrimidin-4-one | ClC=1C=C(C=2N(C(C=C(N2)C)=O)C1)O | C9H7ClN2O2
reactant | isobutyl bromide | 1.5 g | C(C(C)C)Br | C4H9Br
solvent | ethyl methyl ketone | 100 ml | CC(=O)CC | C4H8O
solvent | ethyl methyl ketone | 10 ml | CC(=O)CC | C4H8O
solvent | water | 20 ml | O | H2O
catalyst | copper bronze | 0.2 g | [Cu] | Cu
product | 7-chloro-9-(isobutoxy)-2-methyl-4H-pyrido[ 1,2-a] pyrimidin-4-one | ClC=1C=C(C=2N(C(C=C(N2)C)=O)C1)OCC(C)C | C13H15ClN2O2
